US07176322B2
9-(3-(N,N-dimethylamino)propyl)carbazole
9-(3-chloropropyl)carbazole (2.5 g, 10 mmol) was dissolved in acetonitrile (50 mL) in a pressure tube and dimethylamine hydrochloride (12.2 g, 150 mmol, followed by K2CO3 (20.8 g, 150 mmol) and potassium iodide (0.2 g, 1 mmol) were added and the mixture was stirred at room temperature for 7 days, then filtered and the filtrate concentrated in vacuo. The crude was purified by column chromatography (eluting with 5% methanol in dichloromethane) to afford 1.87 g of the title compound.

reactant | 9-(3-chloropropyl)carbazole | 10 mmol, 2.5 g | ClCCCN1C2=CC=CC=C2C=2C=CC=CC12 | C15H14ClN
reactant | dimethylamine hydrochloride | Cl.CNC
reactant | K2CO3 | 150 mmol, 20.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | potassium iodide | 1 mmol, 0.2 g | [I-].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 9-(3-(N,N-dimethylamino)propyl)carbazole | 1.87 g | CN(C)CCCN1C2=CC=CC=C2C=2C=CC=CC12 | C17H20N2
